US08835472B2
1-(4-Iodobenzyl)-propylamine
5.95 g (21.7 mmol) 1-(4-iodophenyl)-butane-2-one (I39) are added to 150 mL 2-propanol and transferred into an autoclav. 25.1 g (326 mmol) NH4OAc and 4.09 g (65.1 mmol) NaCNBH3 are added and the mixture is stirred at 90° C. over night. The reaction is quenched by the addition of sat. aq. NaHCO3 solution and extracted with EtOAc (3×). The combined organic layers are washed with brine, dried with Na2SO4 and the solvent is removed in vacuo. The compound is used without further purification.

reactant | 1-(4-iodophenyl)-butane-2-one | 21.7 mmol, 5.95 g | IC1=CC=C(C=C1)CC(CC)=O | C10H11IO
reactant | NaCNBH3 | 65.1 mmol, 4.09 g | [BH3-]C#N.[Na+]
solvent | 2-propanol | 150 mL | CC(C)O | C3H8O
product | 1-(4-Iodobenzyl)-propylamine | IC1=CC=C(CC(CC)N)C=C1 | C10H14IN
